US04935437
A mixture of methyl 3-bromomethyl-5-(1-cyano-1-methylethyl)benzoate (0.7 g), 4-methyl-1-tritylimidazole (0.8 g) and acetonitrile (2 ml) was heated under reflux for 48 h, then evaporated to dryness. The residue of 3-[3-(1-cyano-1-methylethyl)-5-methoxycarbonylbenzyl]-4-methyl-1-tritylimidazolium bromide was washed with diethyl ether (2×10 ml), and the residue was treated with glacial acetic acid (4 ml) and water (1 ml) and heated at 90° for 15 minutes. The mixture was diluted with water (20 ml), and washed with diethyl ether, and the aqueous phase was basified with 10N aqueous sodium hdroxide and extracted three times with ethyl acetate. The extracts were combined and evaporated to dryness, and the residue was purified by flash column chromatography, eluting with methanol:chloroform (1:49 by volume), to give methyl 5-(1-cyano-1-methylethyl)-3-(5-methylimidazol-1-ylmethyl)benzoate, mp 101°-104°.

reactant | methyl 3-bromomethyl-5-(1-cyano-1-methylethyl)benzoate | 0.7 g | BrCC=1C=C(C(=O)OC)C=C(C1)C(C)(C)C#N | C13H14BrNO2
reactant | 4-methyl-1-tritylimidazole | 0.8 g | CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | methyl 5-(1-cyano-1-methylethyl)-3-(5-methylimidazol-1-ylmethyl)benzoate | C(#N)C(C)(C)C=1C=C(C=C(C(=O)OC)C1)CN1C=NC=C1C | C17H19N3O2
